US06855698B2
A mixture of 3,9-difluoro-12-(2,3-di-O-benzyl-4-deoxy-β-D-glucopyranosyl)-6,7,12,13-tetrahydro-(5H)indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7-dione (0.312 g, 0.45 mmol) and freshly activated, pulverized 4A molecular sieves (0.5 g) in 15 mL of dichloromethane was cooled at 5° C. under Ar and then triethylamine (0.095 mL, 0.68 mmol) and methanesulfonyl chloride (0.039 mL, 0.50 mmol) were added sequentially. The mixture was stirred at the same temperature for 3 h and then the mixture was quenched with 10% saturated aqueous NaHCO3, diluted with ethyl acetate and then filtered. The filtrate was washed (H2O, brine), dried (Na2SO4) and evaporated to give a yellow glass. This material was taken up in 15 mL of acetone, NaI (0.675 g, 4.50 mmol) was added and the mixture was heated to reflux under Ar for 17 h. The cooled mixture was then evaporated to dryness and the residue was taken up in ethyl acetate, washed (H2O, brine) dried (Na2SO4) and evaporated. The resulting solid was chromatographed (SiO2/ethyl acetate-hexane, 1:1) to give 3,9-difluoro-12-(2,3-di-O-benzyl-4,6-dideoxy-6-iodo-β-D-glucopyranosyl)-6,7,12,13-tetrahydro(5H)indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7-dione (0.276 g, 77% overall) as a yellow glass. To an ice-cold solution of this iodide in 10 mL of dry THF was added DBU (0.157 mL, 1.05 mmol) and the solution was then kept at room temperature for 5 days. The resulting mixture was quenched with saturated aqueous NH4Cl, diluted with ethyl acetate and then washed (H2O, brine), dried (Na2SO4) and evaporated to give the product (0.232 g, 99%) as a yellow glass. To a solution of this material in dry THF was added 20% Pd(OH)2/C and the mixture was hydrogenated (balloon pressure) until the reaction was complete by tlc. The mixture was then filtered (Celite) and the flitrate evaporated to give a yellow glass. Column chromatography (Sephadex LH-20/methanol) afforded the pure title compound as a yellow solid:

reactant | 3,9-difluoro-12-(2,3-di-O-benzyl-4-deoxy-β-D-glucopyranosyl)-6,7,12,13-tetrahydro-(5H)indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7-dione | 0.45 mmol, 0.312 g | FC1=CC2=C(C=C1)NC1=C2C2=C(C=3C4=CC(=CC=C4N(C13)[C@H]1[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)C[C@H](O1)CO)F)C(NC2=O)=O | C40H31F2N3O6
reactant | triethylamine | 0.68 mmol, 0.095 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.50 mmol, 0.039 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaI | 4.50 mmol, 0.675 g | [Na+].[I-]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 3,9-difluoro-12-(2,3-di-O-benzyl-4,6-dideoxy-6-iodo-β-D-glucopyranosyl)-6,7,12,13-tetrahydro(5H)indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7-dione | 0.276 g, 77% | FC1=CC2=C(C=C1)NC1=C2C2=C(C=3C4=CC(=CC=C4N(C13)[C@H]1[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)C[C@H](O1)CI)F)C(NC2=O)=O | C40H30F2IN3O5
